* PEX produced on Wed Jul 22 05:14:14 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1
* NGSPICE file created from NAND_2in.ext - technology: ihp-sg13g2

.subckt NAND_2in a b y VP GND
X0 a_162_n565.t0 b.t0 GND.t2 GND.t1 sg13_lv_nmos ad=55.5f pd=0.74u as=0.1005p ps=1.34u w=0.15u l=0.13u
X1 VP.t1 a.t1 y.t1 VP.t0 sg13_lv_pmos ad=0.1005p pd=1.34u as=55.5f ps=0.74u w=0.15u l=0.13u
X2 y.t0 a.t0 a_162_n565.t0 GND.t0 sg13_lv_nmos ad=0.1005p pd=1.34u as=55.5f ps=0.74u w=0.15u l=0.13u
X3 y.t1 b.t1 VP.t2 VP.t0 sg13_lv_pmos ad=55.5f pd=0.74u as=0.1005p ps=1.34u w=0.15u l=0.13u
R0 a.n0 a.t1 8.57008
R1 a.n0 a.t0 7.51402
R2 a a.n0 5.14188
R3 y.n0 y.t0 27.0125
R4 y.n0 y.t1 26.9107
R5 y y.n0 4.7799
R6 b.n0 b.t0 8.57008
R7 b.n0 b.t1 7.51402
R8 b b.n0 4.90868
R9 VP.n1 VP.t1 17.6952
R10 VP.n0 VP.t2 17.633
R11 VP VP.n2 5.68508
R12 VP.n2 VP.n1 1.67354
R13 VP.n2 VP.t0 1.30819
R14 VP.n1 VP.n0 0.147966
R15 VP VP.n0 0.00691667
R16 GND.n3 GND.t0 232.31
R17 GND.t1 GND.n3 224.299
R18 GND.n4 GND.t1 56.3152
R19 GND.t0 GND.n2 48.3054
R20 GND.n0 GND.t2 17.5471
R21 GND.n3 GND.n1 8.5005
R22 GND GND.n4 4.28303
R23 GND.n2 GND.n0 1.8182
R24 GND GND.n0 0.00508333
R25 GND.n2 GND.n1 0.00109998
R26 GND.n4 GND.n1 0.001
C0 y b 0.02775f
C1 y a 0.11107f
C2 VP b 0.15702f
C3 VP a 0.12352f
C4 b a 0.37123f
C5 VP y 0.25114f
C6 a GND 0.52175f
C7 y GND 0.59441f
C8 b GND 0.42451f
C9 VP GND 0.15447f
C10 a_162_n565.t0 GND 0.08128f
C11 VP.n0 GND 0.01524f
C12 VP.n1 GND 0.02916f
C13 VP.t0 GND 0.40786f
C14 VP.n2 GND 0.06395f
C15 b.t1 GND 0.12003f
C16 b.t0 GND 0.12471f
C17 b.n0 GND 0.19241f
C18 y.t0 GND 0.04467f
C19 y.t1 GND 0.04645f
C20 y.n0 GND 0.32343f
C21 a.t1 GND 0.13104f
C22 a.t0 GND 0.11389f
C23 a.n0 GND 0.19898f
.ends

